US07763639B2
1-ETHYL-4-[2-FLUORO-3-(METHYLTHIO)PHENYL]PIPERIDIN-4-OL
Preparation according to preparation 1 with the exception that n-hexyllitium was used instead of n-butyllithium: 1-bromo-2-fluoro-3-(methylthio)benzene (15 g, 67.8 mmol), dry tetrahydrofurane (70 ml), n-hexyllithium (2.3 M in hexane, 31 ml, 71 mmol), 1-ethylpiperidin-4-one (9.06 g, 71 mmol). Yield: 20.7 g. MS m/z (rel. intensity, 70 eV) 269 (M+, 49), 254 (bp), 236 (36), 56 (31), 84 (23).

reactant | n-hexyllitium | C(CCCCC)[Li]
reactant | 1-bromo-2-fluoro-3-(methylthio)benzene | 67.8 mmol, 15 g | BrC1=C(C(=CC=C1)SC)F | C7H6BrFS
reactant | n-hexyllithium | 71 mmol, 2.3 M, 31 ml | C(CCCCC)[Li]
reactant | 1-ethylpiperidin-4-one | 71 mmol, 9.06 g | C(C)N1CCC(CC1)=O | C7H13NO
solvent | tetrahydrofurane | 70 ml | O1CCCC1 | C4H8O
product | 1-ETHYL-4-[2-FLUORO-3-(METHYLTHIO)PHENYL]PIPERIDIN-4-OL | C(C)N1CCC(CC1)(O)C1=C(C(=CC=C1)SC)F | C14H20FNOS
